US07358248B2
A solution of dibenzofuran-4-boronic acid (1.0 g, 4.7 mmol) in ethanol (10 mL) was added to a stirred solution of 1-bromo-4-iodobenzene (1.33 g, 4.7 mmol) and tetrakis-(triphenylphosphine)-palladium(0) (271 mg, 5 mol %) in toluene (40 mL). 2 N sodium carbonate (4.7 mL, 9.4 mmol) was added and then the reaction was heated to 90° C. (oil bath temp.) for 2-3 h until complete (TLC control). The reaction mixture was cooled to room temperature and partitioned between water and diethyl ether. The phases were separated, the aqueous phase being further extracted with diethyl ether (2×20 mL). The combined organic extracts were washed with water and sat'd aq NaCl. The ethereal solution was dried over anhyd MgSO4, filtered and concentrated in vacuo to yield 4-(4-bromophenyl)-dibenzofuran as a yellow solid, which was used immediately without further purification.

reactant | dibenzofuran-4-boronic acid | 4.7 mmol, 1.0 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | 1-bromo-4-iodobenzene | 4.7 mmol, 1.33 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | sodium carbonate | 9.4 mmol, 2 N, 4.7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 271 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-bromophenyl)-dibenzofuran | BrC1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C18H11BrO
